US08232309B2
Hydroxymethyl-phosphonic acid dibenzyl ester
Charged an Emrys 5 mL process vial with 2.0 g (7.63 mmol) dibenzyl phosphite, 229 mg (7.63 mmol) paraformaldehyde powder, and 0.11 mL (0.76 mmol) triethylamine. The white mixture was heated in a microwave (Personal Chemistry) at 130° for 5 minutes. The crude oil was purified on silica gel, eluting with 50-100% ethyl acetate in hexane to provide 947 mg (42% yield) of the title compound, a colorless oil. MS (ESI) m/z: 181.1, 293.0 [M+H]+ 1H NMR (DMSO-d6) δ: 3.83 (m, 2H), 5.02 (d, 4H), 5.50 (m, 1H), 7.37 (m, 10H).

reactant | dibenzyl phosphite | 7.63 mmol, 2.0 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | paraformaldehyde | 7.63 mmol, 229 mg | C=O | CH2O
reactant | triethylamine | 0.76 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
product | Hydroxymethyl-phosphonic acid dibenzyl ester | 947 mg, 42% yield | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)CO | C15H17O4P
